US08048897B2
(1) Synthesis of (1R,2R,3S,4S,6R)-4-[2-Ethoxy-5-(4-ethylbenzyl)phenyl]-6-(hydroxymethyl)cyclohexane-1,2,3-triol
To a solution of the (1S,2R,3S,4R,5R)-2,3,4-tris-benzyloxy-5-benzyloxymethyl-1-[2-ethoxy-5-(4-ethylbenzyl)-phenyl]cyclohexanol (402 mg, 0.517 mmol) in THF (4 ml) and methanol (2 mL) as obtained in Example 67, a 20% palladium hydroxide catalyst (78 mg) was added and the mixture solution was stirred under a hydrogen atmosphere for 19 hours. After filtering the catalyst, the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=methylene chloride:methanol (10:1)] to obtain the title compound (42 mg, 20%).

reactant | (1S,2R,3S,4R,5R)-2,3,4-tris-benzyloxy-5-benzyloxymethyl-1-[2-ethoxy-5-(4-ethylbenzyl)-phenyl]cyclohexanol | 0.517 mmol, 402 mg | C(C1=CC=CC=C1)O[C@H]1[C@@](C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)OCC | C52H56O6
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium hydroxide | 78 mg | [OH-].[Pd+2].[OH-]
product | (1R,2R,3S,4S,6R)-4-[2-Ethoxy-5-(4-ethylbenzyl)phenyl]-6-(hydroxymethyl)cyclohexane-1,2,3-triol | 42 mg, 20% | C(C)OC1=C(C=C(C=C1)CC1=CC=C(C=C1)CC)[C@H]1[C@@H]([C@H]([C@@H]([C@H](C1)CO)O)O)O | C24H32O5
